US05380742
5.1 1,3-Dichloro-5-(1,1-dimethylethoxy)carbonyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole.
A solution of 61.64 g (282 mmol) of di(1,1-dimethylethyl) dicarbonate in 275 ml of dioxane followed by 274 ml of a 2M sodium hydroxide solution are added dropwise, at 0° C., to a suspension of 50 g (182 mmol) of 1,3-dichloro-5,6-dihydro-4H-thieno[3,4-c ]pyrrole hydrobromide in 500 ml of dioxane. After stirring for 1 hour at room temperature, the precipitate is filtered off, rinsed with twice 500 ml of water and dried at 70° C. 51 g of a white solid are obtained. Yield 95%. Melting point: 112°-114° C.

reactant | di(1,1-dimethylethyl) dicarbonate | 282 mmol, 61.64 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 2M | [OH-].[Na+]
reactant | 1,3-dichloro-5,6-dihydro-4H-thieno[3,4-c ]pyrrole hydrobromide | 182 mmol, 50 g | Br.ClC=1SC(=C2C1CNC2)Cl
solvent | dioxane | 275 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 1,3-Dichloro-5-(1,1-dimethylethoxy)carbonyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole | 51 g, Yield 95% | ClC=1SC(=C2C1CN(C2)C(=O)OC(C)(C)C)Cl | C11H13Cl2NO2S
